US09085555B2
(S)-2-(3-Isopropyl-isoxazol-5-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
To a mixture of Boc-L-proline (150 mg, 0.697 mmol), 3-isopropylisoxazol-5-amine (88 mg, 0.697 mmol) and HBTU (264 mg, 0.697 mmol) in DMF (7 mL) was added 2-tert-butylimino-2-diethylamino-1,3-dimethylperhydro-1,3,2-diazaphosphorine (BEMP) (201 μl, 0.697 mmol) and the reaction mixture was stirred at RT under nitrogen for 48 h. The mixture was poured into HCl 1N and extracted three times with EtOAc. The combined organic layers were washed with an aqueous saturated solution of NaHCO3, with water, dried over Na2SO4, filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (c-hexane to c-hexane/EtOAc 7-3) to give the title compound. TLC, Rf (c-hexane/EtOAc 1:1)=0.6; MS (LC-MS): 324.1 [M+H]+, 346.1 [M+Na]+, 669.2 [2M+Na]+, 322.1 [M−H]−; tR (HPLC conditions a): 3.42 min.

reactant | Boc-L-proline | 0.697 mmol, 150 mg | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | 3-isopropylisoxazol-5-amine | 0.697 mmol, 88 mg | C(C)(C)C1=NOC(=C1)N | C6H10N2O
reactant | HBTU | 0.697 mmol, 264 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-tert-butylimino-2-diethylamino-1,3-dimethylperhydro-1,3,2-diazaphosphorine | 0.697 mmol, 201 μl | C(C)(C)(C)N=P1(N(CCCN1C)C)N(CC)CC | C13H31N4P
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | (S)-2-(3-Isopropyl-isoxazol-5-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(NC1=CC(=NO1)C(C)C)=O | C16H25N3O4
